US06414148B1
A mixture of 4-(4-chloro2-fluoroanilino)-7-(3-ethoxycarbonylpropoxy)6-methoxyquinazoline (220 mg, 0.5 mmol) in aqueous sodium hydroxide solution (4 ml of a 2M solution, 8 mmol), water (2 ml) and methanol (0.5 ml) was stirred and heated at 40° C. for 3 hours. The mixture was allowed to cool and was then acidified with 2M hydrochloric acid. The resulting white precipitate was collected by filtration and washed with acetone and water to give 7-(3carboxypropoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline (170 mg, 83%).

reactant | 4-(4-chloro2-fluoroanilino)-7-(3-ethoxycarbonylpropoxy)6-methoxyquinazoline | 0.5 mmol, 220 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCCC(=O)OCC)C=C1)F | C21H21ClFN3O4
reactant | water | 2 ml | O | H2O
reactant | methanol | 0.5 ml | CO | CH4O
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | sodium hydroxide | [OH-].[Na+]
product | 7-(3carboxypropoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline | 170 mg, 83% | C(=O)(O)CCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)Cl)F)OC | C19H17ClFN3O4
